US07183293B2
(±)-2-(Benzo[1,3]dioxol-5-yloxy)-N-{2-fluoro-4-[1-(1H-tetrazol-5-yl)-ethoxy]-benzyl}-nicotinamide of Formula (5.5.19)
A solution of (±)-2-(benzo[1,3]dioxol-5-yloxy)-N-[4-(1-cyano-ethoxy)-2-fluoro-benzyl]-nicotinamide (1.5 g, 3.5 mmol) in anhydrous toluene (5 mL) was transferred to a small pressure flask. Dibutyltin oxide (0.53 g, 2.1 mmol) and trimethylsilyl azide (1.7 mL, 21 mmol) were added. The tube was sealed and placed behind a blast shield. The reaction was stirred 15 min at 55° C., then warmed to 110° C. with stirring over night. The black reaction mix was cooled to 0–5° C., the pressure flask opened, and the residue taken up in methanol. Solvents were removed in vacuo and the residue taken up in ethyl acetate. The organic solution was washed twice with saturated aqueous sodium carbonate. The aqueous phases were pooled and acidified with concentrated hydrochloric acid, and extracted twice with ethyl acetate. The pooled organic phases were dried (MgSO4), concentrated, and loaded onto a silica gel column as a brown oil. Purification by column chromatography (5% methanol/dichloromethane) afforded product as a white solid (0.46 g, 28%).

reactant | (±)-2-(benzo[1,3]dioxol-5-yloxy)-N-[4-(1-cyano-ethoxy)-2-fluoro-benzyl]-nicotinamide | 3.5 mmol, 1.5 g | O1COC2=C1C=CC(=C2)OC2=C(C(=O)NCC1=C(C=C(C=C1)OC(C)C#N)F)C=CC=N2 | C23H18FN3O5
reactant | Dibutyltin oxide | 2.1 mmol, 0.53 g | C(CCC)[Sn](CCCC)=O
reactant | trimethylsilyl azide | 21 mmol, 1.7 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | (±)-2-(Benzo[1,3]dioxol-5-yloxy)-N-{2-fluoro-4-[1-(1H-tetrazol-5-yl)-ethoxy]-benzyl}-nicotinamide | 0.46 g, 28% | O1COC2=C1C=CC(=C2)OC2=C(C(=O)NCC1=C(C=C(C=C1)OC(C)C1=NN=NN1)F)C=CC=N2 | C23H19FN6O5
